US05703050
d) 3-(3-(3-(3-tert-Butyloxycarbonylaminopropyl)ureido)benzoylamino)propionicacid
0.61 g (1.33 mmol) of ethyl 3-(3-(3-(3-tert-butyloxy-carbonylaminopropyl)ureido)benzoylamino)propionate is dissolved in 50 ml of ethanol and treated with 0.73 ml of 2N NaOH. After 25 h at room temperature, the solvent is removed in vacuo and the residue is treated with 20 ml of water and 20 ml of ethyl acetate and acidified with citric acid. The phases are separated and the aqueous phase is extracted a further two times with 20 ml of ethyl acetate each time. After drying (MgSO4), the solvent is removed in vacuo and the residue (0.62 g) is employed without further purification.

reactant | ethyl 3-(3-(3-(3-tert-butyloxy-carbonylaminopropyl)ureido)benzoylamino)propionate | 1.33 mmol, 0.61 g | C(C)(C)(C)OC(CCNC(NC=1C=C(C(=O)NCCC(=O)OCC)C=CC1)=O)N=C=O | C21H30N4O6
reactant | NaOH | 2N, 0.73 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(3-(3-(3-tert-Butyloxycarbonylaminopropyl)ureido)benzoylamino)propionicacid | C(C)(C)(C)OC(=O)NCCCNC(NC=1C=C(C(=O)NCCC(=O)O)C=CC1)=O | C19H28N4O6
